US04360511
A solution of 1 mg of I-123-o-iodobenzaldehyde prepared in accordance with example 15 in 100 mcl ethanol was placed in a small test tube. One lambda of aniline was added and the mixture allowed to stand for ten minutes. A solution of 2 mg of sodium cyanide in 10 lambda of deionized water was then added and the mixture allowed to stand for an additional ten minutes. Three lambda of acetic acid was then added and the mixture allowed to stand 20 minutes to yield α-anilino-o-iodophenylacetonitrile.

reactant | I-123 o-iodobenzaldehyde | 1 mg | [123I-].IC1=C(C=O)C=CC=C1
reactant | ethanol | C(C)O | C2H6O
reactant | aniline | NC1=CC=CC=C1 | C6H7N
reactant | sodium cyanide | 2 mg | [C-]#N.[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | α-anilino-o-iodophenylacetonitrile | N(C1=CC=CC=C1)C(C#N)C1=C(C=CC=C1)I | C14H11IN2
